Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
peanuts / Singulair
 
Attending: ___
 
Chief Complaint:
Bilateral popliteal artery entrapment
 
Major Surgical or Invasive Procedure:
Bilateral Leg Popliteal Artery Releases; popliteal neurolysis, 
bilateral; myomectomies medial and lateral gastroxnemius muscles 
bilateral

 
History of Present Illness:
___ is a very active young lady in her
___ who is a high school and college athlete.  She has been
treated in the Sports Medicine Clinic for a number of years
for compartment syndromes.  She has a very short, stocky,
muscular habitus and she has had multiple compartment
fasciotomies for exertional compartment syndrome.  These
helped, but did not completely solve her stress-induced pain
completely.  She subsequently had MRIs done using the plantar
flexion maneuver.  These showed partial compression of the
popliteal artery on both sides, worse on the right than the
left.  Interestingly, on the right side she had a large
osteophyte on the posterior aspect of the lateral femoral
condyle, which is in an area where this compression was seen. 
She was brought to the OR today for a popliteal artery
decompression.  This included complete fasciectomy of the
posterior aspect of both knees as well as resection of a
portion of the origins of the medial and lateral gastrocnemius
muscles within the popliteal space.  She did not have
hypertrophied plantaris or popliteus muscles.  She did not
have an extra medial and gastroc on either side.

 
Past Medical History:
Bilateral popliteal entrapment syndrome
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
At discharge: 
___ 0332 Temp: 98.5 PO BP: 114/71 HR: 80 RR: 18 O2 sat: 95%
O2 delivery: RA 
Gen: NAD, A&Ox3, lying on stretcher.
HEENT: Normocephalic. 
CV: RRR
R: Breathing comfortably on room air. No wheezing.
Ext: WWP. Dressings in place and are c/d/i; JP drains w/ SS
output bilaterally; some diminished sensation bilaterally which
is to be expected after this operation; able to wiggle toes
bilaterally

 
Pertinent Results:
N/a
 
Brief Hospital Course:
The patient presented as a same day admission for surgery. The 
patient was taken to the operating room on ___ for Bilateral 
Leg Popliteal Artery Releases; popliteal neurolysis, bilateral; 
myomectomies medial and lateral gastroxnemius muscles bilateral, 
which the patient tolerated well. For full details of the 
procedure please see the separately dictated operative report. 
The patient was taken from the OR to the PACU in stable 
condition and after satisfactory recovery from anesthesia was 
transferred to the floor. The patient was initially given IV 
fluids and IV pain medications, and progressed to a regular diet 
and oral medications by POD#1. The patient was given 
___ antibiotics and anticoagulation per routine. She 
was also started on a daily 81mg Aspirin. The patient worked 
with ___ who determined that discharge to home was appropriate. 
The ___ hospital course was otherwise unremarkable. She 
was given knee immobilizers and crutches to ambulate, per 
protocol.

At the time of discharge the patient's pain was well controlled 
with oral medications, dressings were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
partial weight bearing in her bilateral lower extremities, and 
will be discharged on Aspirin 81mg for thrombosis prophylaxis. 
The patient will follow up with Dr. ___ in ___ weeks per 
routine. A thorough discussion was had with the patient 
regarding the diagnosis and expected post-discharge course 
including reasons to call the office or return to the hospital, 
and all questions were answered. The patient was also given 
written instructions concerning precautionary instructions and 
the appropriate follow-up care. The patient expressed readiness 
for discharge.

 
Medications on Admission:
None
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
2.  Bisacodyl 10 mg PO DAILY:PRN Constipation - First Line  
3.  cefaDROXil 500 mg oral BID 
RX *cefadroxil 500 mg 1 capsule(s) by mouth twice a day Disp 
#*14 Capsule Refills:*1 
4.  Docusate Sodium 100 mg PO BID  
5.  Gabapentin 300 mg PO TID 
RX *gabapentin 300 mg 1 capsule(s) by mouth three times a day 
Disp #*60 Capsule Refills:*0 
6.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth q4-6 hours Disp #*40 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bilateral popliteal artery entrapment

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
-Please leave your dressings in place until your follow up 
appointment
-Please do not get your dressings wet; sponge bath only
-Please wear your knee immobilizers at all times; please use 
crutches to help you ambulate
-Please record your drain outputs daily
 
Followup Instructions:
___